US04477450
A mixture of 8.3 g (0.05 mole) of 4-chloro-2-ethyl-6-hydrazinylpyrimidine and 11 g (0.10 mole) of 1-methylpiperazine in 250 ml of water was heated at reflux for 16 hours and was then cooled and extracted with chloroform. The extracts were dried over magnesium sulfate and were then evaporated to provide 8.3 g (70%) of 2-ethyl-6-hydrazinyl-4-(4-methyl-1-piperazinyl)pyrimidine.

reactant | 4-chloro-2-ethyl-6-hydrazinylpyrimidine | 0.05 mole, 8.3 g | ClC1=NC(=NC(=C1)NN)CC | C6H9ClN4
reactant | 1-methylpiperazine | 0.10 mole, 11 g | CN1CCNCC1 | C5H12N2
solvent | water | 250 ml | O | H2O
product | 2-ethyl-6-hydrazinyl-4-(4-methyl-1-piperazinyl)pyrimidine | 8.3 g, 70% | C(C)C1=NC(=CC(=N1)N1CCN(CC1)C)NN | C11H20N6
